US05006536
To silica gel (100 g), 15% aqueous sulfuric acid (15.4 g), and dichloromethane (400 ml) was added 2-(2-fluorobenzyl)-3-thiophenecarboxaldehyde dimethylacetal and dichloromethane (25 ml). The mixture was stirred for 2.5 hrs. The reaction mixture was filtered. The filter cake was washed with ethyl acetate and dichloromethane. The filtrate was concentrated and the residue was purified by flash column chromatography (silica gel, 0.5-10% ethyl acetate/hexanes) to afford 24.0 g (23.5%) of 2-(2-fluorobenzyl)-3-thiophenecarboxaldehyde.

reactant | sulfuric acid | 15.4 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(2-fluorobenzyl)-3-thiophenecarboxaldehyde dimethylacetal | COC(C1=C(SC=C1)CC1=C(C=CC=C1)F)OC | C14H15FO2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(2-fluorobenzyl)-3-thiophenecarboxaldehyde | 24.0 g, 23.5% | FC1=C(CC=2SC=CC2C=O)C=CC=C1 | C12H9FOS
